US09340506B2
Synthesis of tert-butyl 6-aminopyridine-3-carboxylate
A mixture of 6-amino pyridine 3-carboxylic acid (2.0 g, 14.48 mmol) and thionyl chloride (10 mL) was reflux for 3.5 h under anhydrous atmosphere. Acid chloride formation was confirmed by TLC. Excess of thionyl chloride was removed under reduced pressure on rotavapour. Triethyl amine (5 mL, 36.2 mmol) and tert-butanol (5 mL) was added to acid chloride at 0° C. under inner atmosphere and reaction mixture was heated at 80° C. for 2 h. completion of reaction was confirmed by TLC. The reaction mixture was diluted with dichloromethane (50 mL) and water (50 mL), layers were separated and aqueous layer was extracted with DCM (2×30 mL) combined organic layers were washed with water (50 mL), brine (50 mL) and dried over anhydrous sodium sulphate (50 g). The solvent was removed under reduced pressure and the residue was purified by column chromatography using 20-30% ethyl acetate in hexane. Removal of solvent from appropriate fractions under reduced pressure using rotavapour gave pure product (0.7 g).

reactant | 6-amino pyridine 3-carboxylic acid | 14.48 mmol, 2.0 g | NC1=CC=C(C=N1)C(=O)O | C6H6N2O2
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Triethyl amine | 36.2 mmol, 5 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butanol | 5 mL | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | tert-butyl 6-aminopyridine-3-carboxylate | 0.7 g | NC1=CC=C(C=N1)C(=O)OC(C)(C)C | C10H14N2O2
